US09102621B2
Methyl 4-{[(5-chloro-6-isobutoxypyridin-3-yl)oxy]methyl}benzoate
To a solution of methyl 4-(bromomethyl)benzoate (250 mg, 1.09 mmol) in acetone (20 mL) were added potassium carbonate (302 mg, 2.18 mmol) and 5-chloro-6-isobutoxypyridin-3-ol (Preparation 1, 220 mg, 1.09 mmol) and the reaction heated at reflux overnight. The reaction was allowed to cool to room temperature, the solvent removed under reduced pressure and the resulting yellow solid dissolved in ethyl acetate (30 mL). The solution was transferred to a separating funnel containing water (50 mL), the organic layer separated and the aqueous extracted with ethyl acetate (2×30 mL). The combined organic extracts were washed with sodium hydroxide (1.0 M aqueous solution, 30 mL), then brine (50 mL), dried over sodium sulphate and filtered to give the title compound as pale yellow solid (369 mg, 97%).

reactant | methyl 4-(bromomethyl)benzoate | 1.09 mmol, 250 mg | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | potassium carbonate | 2.18 mmol, 302 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-chloro-6-isobutoxypyridin-3-ol | 1.09 mmol, 220 mg | ClC=1C=C(C=NC1OCC(C)C)O | C9H12ClNO2
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | Methyl 4-{[(5-chloro-6-isobutoxypyridin-3-yl)oxy]methyl}benzoate | 369 mg, 97% | ClC=1C=C(C=NC1OCC(C)C)OCC1=CC=C(C(=O)OC)C=C1 | C18H20ClNO4
